US06281227B1
F. Benzhydrylidene-(1-chloro-7-methyl-isoquinolin-6-yl)-amine
To a solution of 1-chloro-7-methyl-isoquinolin-6-ylamine (0.1 g, 0.52 mmol) in MeOH (5 mL) at 0° C. is bubbled HCl gas for 1 minute, then the solvent is removed in vacuo. The remaining white solid is diluted with 1,2 dichloroethane and benzophenone imine (0.15 mL, 0.89 mmol) is added. The resulting suspension is heated to reflux for 48 hours, then cooled to room temperature and concentrated to dryness. The crude material is diluted with CH2Cl2 and washed with saturated NaHCO3 solution and brine. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography using 10% EtOAc/hexanes as the eluent to afford the title compound (0.159 g, 0.45 mmol) as a yellow oil.

reactant | 1-chloro-7-methyl-isoquinolin-6-ylamine | 0.52 mmol, 0.1 g | ClC1=NC=CC2=CC(=C(C=C12)C)N | C10H9ClN2
reactant | HCl | Cl | ClH
reactant | benzophenone imine | 0.89 mmol, 0.15 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | MeOH | 5 mL | CO | CH4O
solvent | 1,2 dichloroethane | ClCCCl | C2H4Cl2
product | Benzhydrylidene-(1-chloro-7-methyl-isoquinolin-6-yl)-amine | 0.45 mmol, 0.159 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=C2C=CN=C(C2=CC1C)Cl | C23H17ClN2
